US06689806B1
Diethyl azodicarboxylate (1.58 mL, 10 mmol) was added to a solution of triphenylphosphine (2.62 g, 10 mmol) in tetrahydrofuran (20 mL) under nitrogen atmosphere. The mixture was stirred for 15 minutes. To it was then added 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (1.77 g, 10 mmol) followed by 2-isopropylphenol (1.36 mL, 10 mmol). The mixture was stirred at room temperature for 18 hours and the solvent was evaporated. The residue was chromatographed on silica gel eluting with ethyl acetate: hexane 2:8 to give 0.26 g (9%) of 4-[2-(2-isopropyl-phenoxy)-ethyl]-1,3-dihydro-indol-2-one as a light yellow solid.

reactant | Diethyl azodicarboxylate | 10 mmol, 1.58 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 10 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 10 mmol, 1.77 g | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | 2-isopropylphenol | 10 mmol, 1.36 mL | C(C)(C)C1=C(C=CC=C1)O | C9H12O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-[2-(2-isopropyl-phenoxy)-ethyl]-1,3-dihydro-indol-2-one | 0.26 g, 9% | C(C)(C)C1=C(OCCC2=C3CC(NC3=CC=C2)=O)C=CC=C1 | C19H21NO2
